US05240925
e. Preparation of 1-[2-(4-Chlorophenyl)-2-cyano-6-(2,6-dimethyl-4-morpholinyl)hexyl]-1,2,4-triazole
This compound (400 mg.) was prepared using the procedure described in Example 2b except using 400 mg. (1.25 mmoles) of 2-(4-chlorophenyl)-6-(2,6-dimethyl-4-morpholinyl)capronitrile, 0.06 g. (1.38 mmoles) of sodium hydride, 0.15 g. (1.25 mmoles) of 1-(chloromethyl)-1,2,4-triazole, and 4 ml. of DMF and was isolated as a yellow oil.

reactant | 2-(4-chlorophenyl)-6-(2,6-dimethyl-4-morpholinyl)capronitrile | 1.25 mmoles | ClC1=CC=C(C=C1)C(C#N)CCCCN1CC(OC(C1)C)C | C18H25ClN2O
reactant | sodium hydride | 1.38 mmoles | [H-].[Na+]
reactant | 1-(chloromethyl)-1,2,4-triazole | 1.25 mmoles | ClCN1N=CN=C1 | C3H4ClN3
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(4-Chlorophenyl)-2-cyano-6-(2,6-dimethyl-4-morpholinyl)hexyl]-1,2,4-triazole | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCCCN1CC(OC(C1)C)C)C#N | C21H28ClN5O
